US06020528
A solution of 16.2 g of diisopropylamine in 50 ml of tetrahydrofuran (THF) is cooled to -10° C. 100 ml of butyllithium in hexane (1.6 M) are added dropwise. Then, at -40° C., first 9.0 g of 4-methylphenylphosphine and, subsequently, a solution of 29.22 g of 2,4,6-trimethylbenzoyl chloride in 150 ml of THF are added. The solution is stirred for 1.5 hours and then the solvent is removed under reduced pressure, to give 28.0 g of bis(2,4,6-trimethylbenzoyl)-4-methylphenylphosphine as a yellow powder.

reactant | diisopropylamine | 16.2 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 100 ml | C(CCC)[Li]
reactant | 4-methylphenylphosphine | 9.0 g | CC1=CC=C(C=C1)P | C7H9P
reactant | 2,4,6-trimethylbenzoyl chloride | 29.22 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | THF | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | bis(2,4,6-trimethylbenzoyl)-4-methylphenylphosphine | 28.0 g | CC1=C(C(=O)P(C2=CC=C(C=C2)C)C(C2=C(C=C(C=C2C)C)C)=O)C(=CC(=C1)C)C | C27H29O2P
